US09388185B2
5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluoro-N,N-dimethylbenzamide
The compound was prepared by using procedure analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 3-(dimethylcarbamoyl)-4-fluorophenylboronic acid (from Combi-Blocks). LCMS calculated for C25H26FN4O3 (M+H)+: m/z=449.2. Found 449.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 3-(dimethylcarbamoyl)-4-fluorophenylboronic acid | CN(C(=O)C=1C=C(C=CC1F)B(O)O)C | C9H11BFNO3
product | 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluoro-N,N-dimethylbenzamide | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=C(C(=O)N(C)C)C3)F)C=C(C1)OC | C25H25FN4O3
